US08193179B2
Preparation D: 3-fluoro-6-methoxy-quinoline-4-carbaldehyde
To a solution of DIPA (15.5 mL) in THF (300 mL), cooled to −78° C., was added n-BuLi (2.35N in hexanes, 44 mL). The reaction mixture was stirred 5 min at this temperature before warming to 0° C. The reaction mixture was stirred 15 min before cooling to −78° C. 3-fluoro-6-methoxy-quinoline (prepared as described in FR 2004/01105, 15 g) in THF (50 mL+10 mL rinse) was added and the mixture was stirred 3 h at −78° C. DMF (3 mL) was added quickly. After 45 min., 1-propanol (8 mL) was added and the mixture was warmed to rt. The mixture was partitioned between water (100 mL) and EA (200 mL). The aq. layer was extracted with EA (200 mL). The combined org. layers were washed with brine, dried over Na2SO4, filtered and concentrated to dryness. The residue triturated in Hept to give an orange solid (9.0 g, 51% yield).

reactant | n-BuLi | 2.35N, 44 mL | [Li]CCCC
reactant | 3-fluoro-6-methoxy-quinoline | 15 g | FC=1C=NC2=CC=C(C=C2C1)OC | C10H8FNO
reactant | DMF | 3 mL | CN(C)C=O | C3H7NO
reactant | 1-propanol | 8 mL | C(CC)O | C3H8O
solvent | THF | 300 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 3-fluoro-6-methoxy-quinoline-4-carbaldehyde | 9.0 g, 51% yield | FC=1C=NC2=CC=C(C=C2C1C=O)OC | C11H8FNO2
